US04956368
8-(3,4-Epoxybutyl)-8-azaspiro[4.5]decane-7,9-dione
A solution of MCPBA (80%, 5.01 g, 1.13 equiv) in 50 mL of CH2Cl2 was added to a stirring solution of 8-(3-butenyl) -8-azaspiro[4.5]decane-7,9-dione (4.54 g, 1.00 equiv) in 0 mL of CH2Cl2. The resulting solution was stirred until TLC inspection indicated the absence of limiting reagent (δ15 h). The reaction was quenched with 40 mL of 2% Na2CO3 solution and transferred to a separatory funnel. The layers were separated and the organic phase was washed with 2% Na solution (3×20 mL). The combined aqueous layers were back-extracted with CH2Cl2 (40 mL). The combined organic layers were dried on anhydrous Na2SO4, filtered and the solvent removed in vacuo. Flash chromatography of the resulting residue in 25% EtOAc/hexane afforded the title compound (3.65 g, 75%) as a clear, viscous liquid.

reactant | MCPBA | 5.01 g, 1.13 equiv | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 8-(3-butenyl) -8-azaspiro[4.5]decane-7,9-dione | 4.54 g, 1.00 equiv | C(CC=C)N1C(CC2(CCCC2)CC1=O)=O | C13H19NO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0 mL | C(Cl)Cl | CH2Cl2
product | 8-(3,4-Epoxybutyl)-8-azaspiro[4.5]decane-7,9-dione | 3.65 g, 75% | O1C(CCN2C(CC3(CCCC3)CC2=O)=O)C1 | C13H19NO3
